US04324725
31 g (0.2 mole) of 3,3-dimethyl-pent-4 -enoic acid, N,N-dimethylamide are added dropwise, in the course of 3 hours, to a solution of 1 g of azo-bis-isobutyronitrile in 308 g (2 moles) of carbon tetrachloride at 75°-80° C. The mixture is stirred for 1.5 hours at 75°-80° C., a further 1 g of azo-bis-isobutyronitrile is added, and the temperature is maintained for a further 2 hours. After distilling off the unconverted starting materials at a bath temperature not exceeding 150° C., a residue is left, and this is stirred with 100 ml of water at 80°-90° C. for 1 hour. 17 g (0.08 mole) of 5-(2,2-dichlorovinyl)-4,4-dimethyl-tetrahydrofuran-2-one are thereby obtained as a water-insoluble phase.

reactant | 3,3-dimethyl-pent-4 -enoic acid, N,N-dimethylamide | 0.2 mole, 31 g | CN(C(CC(C=C)(C)C)=O)C | C9H17NO
reactant | carbon tetrachloride | 2 moles, 308 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | water | O | H2O
catalyst | azo-bis-isobutyronitrile | 1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
catalyst | azo-bis-isobutyronitrile | 1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 5-(2,2-dichlorovinyl)-4,4-dimethyl-tetrahydrofuran-2-one | 0.08 mole, 17 g | ClC(=CC1C(CC(O1)=O)(C)C)Cl | C8H10Cl2O2
